US05968967
3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-(N-hydroxyethyl-N-methyl-aminocarbonyl)-2-methyl-2H-pyrazol-5-one
To a liquid mixture of 150 mg of 3-(4-t-butylphenyl)-4-chlorocarbonyl-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one and 3 ml of tetrahydrofuran, 72 mg of N-methylethanolamine was added at room temperature, and the resulting mixture was stirred at the same temperature for another 1 hour and then concentrated under reduced pressure. After addition of 1N hydrochloric acid, the mixture was extracted with chloroform. The extract was washed with 1N hydrochloric acid and saturated aqueous sodium chloride successively and dried over anhydrous sodium sulfate. The insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized in ethyl acetate-hexane to give 110 mg of the title compound as colorless crystals.

reactant | 3-(4-t-butylphenyl)-4-chlorocarbonyl-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one | 150 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)Cl)=O)C1=CC=C(C=C1)C#N)C | C22H20ClN3O2
reactant | N-methylethanolamine | 72 mg | CNCCO | C3H9NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-(N-hydroxyethyl-N-methyl-aminocarbonyl)-2-methyl-2H-pyrazol-5-one | 110 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)N(C)CCO)=O)C1=CC=C(C=C1)C#N)C | C25H28N4O3
